US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine (Compound 51)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(2,6-dimethylphenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 88%). 1H NMR (300 MHz, CDCl3): δ 2.04-2.58 (m, 9H), 3.14-3.20 (m, 4H), 3.71-3.76 (m, 3H), 4.07-4.14 (m, 4H), 7.00-7.15 (m, 4H), 7.25-7.76 (m, 3H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(2,6-dimethylphenyl)piperazine | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine | 88% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1C)C)C | C23H27N5O2
